US04772600
2-(3,4-Dichlorophenyl)-N,N-dipropyl-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate [1:0.5]
Under nitrogen bubbling, a mixture of 2-(3,4-dichlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (3.5 g, 0.011 mole) and 1,1'-carbonyldiimidazole (1.95 g, 0.011 mole) in 120 ml of tetrahydrofuran was stirred at room temperature for 31/2 hrs. Then, under nitrogen atmosphere, dipropylamine (2.43 g, 0.024 mole) was added at room temperature and the reaction mixture was heated at reflux for 6 hrs. The reaction mixture was filtered, and the filtrate was evaporated to dryness. The residue was treated with water and refrigerated. The solid was collected by filtration, washed with water, and dried under high vacuum at 50°-60° C. overnight. The solid was recrystallized from isopropyl alcohol-water, collected, washed with water, and dried under high vacuum at 50°-60° C. overnight. Two crops gave 1.9 g (43%) of crystals, mp 122°-123° C.

reactant | 2-(3,4-dichlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.011 mole, 3.5 g | ClC=1C=C(C=CC1Cl)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H9Cl2N3O2
reactant | 1,1'-carbonyldiimidazole | 0.011 mole, 1.95 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dipropylamine | 0.024 mole, 2.43 g | C(CC)NCCC | C6H15N
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 2-(3,4-Dichlorophenyl)-N,N-dipropyl-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate | 1.9 g, 43% | O.ClC=1C=C(C=CC1Cl)C1=NC=2C(=NC=CC2)N1CC(=O)N(CCC)CCC | InChI=1S/C20H22Cl2N4O.H2O/c1-3-10-25(11-4-2)18(27)13-26-19(14-7-8-15(21)16(22)12-14)24-17-6-5-9-23-20(17)26;/h5-9,12H,3-4,10-11,13H2,1-2H3;1H2
